* CTLE  corner=tt vdd=1.8 temp=27.0C analysis=op models=sky130
.temp 27.0
.param vdd=1.8
Vdd vdd 0 {vdd}
Vcm cm 0 1.296
Vinp inp cm AC 0.5 SIN(0 0.05 100e6)
Vinn inn cm AC -0.5 SIN(0 -0.05 100e6)
.lib "C:\Users\talk2.000\pdk\sky130A\libs.tech\ngspice\sky130.lib.spice" tt
XM1 outp inp sp 0 sky130_fd_pr__nfet_01v8 L=0.7964 W=22.0702 nf=1 m=1
XM2 outn inn sn 0 sky130_fd_pr__nfet_01v8 L=0.7964 W=22.0702 nf=1 m=1
Iref vdd nbias 4.8274608114281396e-05
XMref nbias nbias 0 0 sky130_fd_pr__nfet_01v8 L=2.0 W=7.7239 nf=1 m=1
XMtp sp nbias 0 0 sky130_fd_pr__nfet_01v8 L=2.0 W=7.7239 nf=1 m=1
XMtn sn nbias 0 0 sky130_fd_pr__nfet_01v8 L=2.0 W=7.7239 nf=1 m=1
Rs sp sn 3162.210712173119
Cs sp sn 8.964475867568934e-14
Rlp vdd outp 3109.5870347729733
Rln vdd outn 3109.5870347729733
Clp outp 0 3e-14
Cln outn 0 3e-14
.op
.end
